US06599902B2
Synthesis of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [2-(4-Hydroxy-piperidin-1-yl)-ethyl]-amide
A mixture of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (100 mg, 0.19 mmol), DIPEA (115 mg, 5 eq.) and 1-(2-amino-ethyl)-piperidin-4-ol TFA salt (88 mg, 1.2 eq.) in 2 mL) was stirred at rt for 45 mins. To the mixture was added HATU (83 mg, 1.1 eq.). After stirring for 18 hours, the reaction was concentrated and purified on a silica gel column to give the titled compound as a yellow solid.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.19 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | DIPEA | 115 mg, 5 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(2-amino-ethyl)-piperidin-4-ol TFA salt | 88 mg, 1.2 eq. | OC(=O)C(F)(F)F.NCCN1CCC(CC1)O
reactant | HATU | 83 mg, 1.1 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [2-(4-Hydroxy-piperidin-1-yl)-ethyl]-amide | OC1CCN(CC1)CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C30H32Cl2N4O5S
